US06740712B2
tert-Butyl-4-[3-[(bromomethyl)-(dimethyl)sily]-5-(trifluoromethyl)-phenyl]-1-piperazine carboxylate
A solution of tert-butyl 4-[3-bromo-5-(trifluoromethyl)-phenyl]-1-piperazine carboxylate (75 g, 183 mmoles) in diethyl ether, previously dried on molecular sieves, (1000 ml) was cooled to −65° C. and a 1.7M solution of tert-butyl lithium (215,6 ml, 366 mmoles) was added. After 30 minutes stirring bromomethyl-dimethyl-chlorosilane (49.9 ml, 366 mmoles) was added dropwise. After 2 hours stirring at −65° C., the reaction mixture was left at room temperature overnight. Water (600 ml) was added and the organic layer was washed with water, dried on MgSO4, filtered and evaporated.

reactant | tert-butyl 4-[3-bromo-5-(trifluoromethyl)-phenyl]-1-piperazine carboxylate | 183 mmoles, 75 g | BrC=1C=C(C=C(C1)C(F)(F)F)N1CCN(CC1)C(=O)OC(C)(C)C | C16H20BrF3N2O2
reactant | tert-butyl lithium | 366 mmoles, 215,6 ml | C(C)(C)(C)[Li]
reactant | bromomethyl-dimethyl-chlorosilane | 366 mmoles, 49.9 ml | BrC[Si](Cl)(C)C | C3H8BrClSi
reactant | Water | 600 ml | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
product | tert-Butyl-4-[3-[(bromomethyl)-(dimethyl)sily]-5-(trifluoromethyl)-phenyl]-1-piperazine carboxylate | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(=CC(=C1)C(F)(F)F)[Si](C)(C)CBr | C19H28BrF3N2O2Si
